US07582644B2
i) 6-Amino-2-[(2-fluoro-4-methoxybenzyl)thio]pyrimidin-4(3H)-one
The subtitle compound was prepared according to the procedure of Example 1 step i) treating 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate (1.86 g) with 2-fluoro-4-methoxybenzyl chloride (2.00 g) to afford the subtitle compound as a white solid. Yield: 2.64 g.

reactant | 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate | 1.86 g | O.NC1=NC(=NC(=C1)O)S
reactant | 2-fluoro-4-methoxybenzyl chloride | 2.00 g | FC1=C(CCl)C=CC(=C1)OC | C8H8ClFO
product | 6-Amino-2-[(2-fluoro-4-methoxybenzyl)thio]pyrimidin-4(3H)-one | NC1=CC(NC(=N1)SCC1=C(C=C(C=C1)OC)F)=O | C12H12FN3O2S
